US05075299
6-Morpholinomethyl-5-p-methoxybenzyloxy-2-hydroxymethyl-4-pyrone
To a suspension of 5.45 g of 6-morpholinomethyl-5-hydroxy-2-hydroxymethyl-4-pyrone in 50 ml of dimethylformamide were successively added 3.32 g of potassium carbonate and 4 ml of p-methoxybenzyl chloride. The mixture was stirred at 70° C. for 4 hours and at room temperature for a further 17 hours. The reaction liquid was concentrated and 100 ml of water and 200 ml of dichloromethane were added to the concentrate. The organic phase was then washed with 100 ml of water. After drying over anhydrous magnesium sulfate, the organic phase was concentrated under reduced pressure. The concentrate was then separated and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (200 g) to give 1.8 g of the title compound.

reactant | 6-morpholinomethyl-5-hydroxy-2-hydroxymethyl-4-pyrone | 5.45 g | O1CCN(CC1)CC1=C(C(C=C(O1)CO)=O)O | C11H15NO5
reactant | potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl chloride | 4 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Morpholinomethyl-5-p-methoxybenzyloxy-2-hydroxymethyl-4-pyrone | 1.8 g | O1CCN(CC1)CC1=C(C(C=C(O1)CO)=O)OCC1=CC=C(C=C1)OC | C19H23NO6
